US07842688B2
e) 4,4-Dimethyl-8-(tetrahydropyran-2-yloxymethyl)-1-(2-trimethylsilanylethoxymethyl)-3,4-dihydro-1H-quinolin-2-one
A solution of 1.4 g of 4,4-dimethyl-8-(tetrahydropyran-2-yloxymethyl)-3,4-dihydro-1H-quinolin-2-one in 10 ml of N,N-dimethylformamide is admixed at 0° C. with 0.2 g of sodium hydride dispersion (60%). After stirring for 1 hour, 0.94 ml of (2-chloromethoxyethyl)trimethylsilane are added and the reaction mixture is warmed to room temperature. After 17 hours and 22 hours, 0.1 g of sodium hydride dispersion (60%) and 0.5 ml of (2-chloromethoxyethyl)trimethylsilane are again added. After a total of 24 hours, the reaction mixture is admixed with a few drops of water and subsequently partitioned between tert-butyl methyl ether and saturated aqueous sodium bicarbonate solution. The organic phase is washed with water, dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a yellowish oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.37 (2:1 EtOAc-heptane); Rt=6.01.

reactant | 4,4-dimethyl-8-(tetrahydropyran-2-yloxymethyl)-3,4-dihydro-1H-quinolin-2-one | 1.4 g | CC1(CC(NC2=C(C=CC=C12)COC1OCCCC1)=O)C | C17H23NO3
reactant | sodium hydride | 0.2 g | [H-].[Na+]
reactant | (2-chloromethoxyethyl)trimethylsilane | 0.94 ml | ClCOCC[Si](C)(C)C | C6H15ClOSi
reactant | sodium hydride | 0.1 g | [H-].[Na+]
reactant | (2-chloromethoxyethyl)trimethylsilane | 0.5 ml | ClCOCC[Si](C)(C)C | C6H15ClOSi
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | water | a few drops | O | H2O
product | 4,4-Dimethyl-8-(tetrahydropyran-2-yloxymethyl)-1-(2-trimethylsilanylethoxymethyl)-3,4-dihydro-1H-quinolin-2-one | CC1(CC(N(C2=C(C=CC=C12)COC1OCCCC1)COCC[Si](C)(C)C)=O)C | C23H37NO4Si
